US05734051
1,3-Di-cyclohexylmethyl-8-bromo Xanthine
The title compound was prepared from 1,3-di-cyclohexylmethyl-8-nitro xanthine (1 g, 0.0026 mol) and concentrated hydrobromic acid (40 ml, 48%) over 32 hours using an analogous procedure to that described in Example 15. The title product was obtained as a crystalline solid, m.pt. 247° C.

reactant | 1,3-di-cyclohexylmethyl-8-nitro xanthine | 0.0026 mol, 1 g | C1(CCCCC1)CN1C(=O)N(C=2N=C(NC2C1=O)[N+](=O)[O-])CC1CCCCC1 | C19H27N5O4
reactant | hydrobromic acid | 40 ml | Br | BrH
product | 1,3-Di-cyclohexylmethyl-8-bromo Xanthine | C1(CCCCC1)CN1C(=O)N(C=2N=C(NC2C1=O)Br)CC1CCCCC1 | C19H27BrN4O2
